US07691882B2
1-(2-Fluoro-phenoxy)-4-(2-nitro-ethyl)-benzene
To an acetic acid (30.0 mL) solution of 4-(2-fluoro-phenoxy)-benzaldehyde (3.00 g, 13.9 mmol) described in Manufacturing Example 83-1-1 were added nitromethane (4.24 g, 69.5 mmol) and ammonium acetate (2.14 g, 27.8 mmol) under nitrogen atmosphere, which was stirred for 3 hours at 110° C. Water and ethyl acetate were added to the reaction mixture, and the organic layer was extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure to obtain a crude product (3.60 g). To a dimethyl sulfoxide (50.0 mL) solution of this crude product (3.60 g) and acetic acid (3.00 mL) was added sodium borohydride (789 mg, 20.9 mmol) at room temperature while cooling appropriately, which was stirred for 20 minutes at room temperature. Water was then added dropwise at room temperature while cooling appropriately. The reaction mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:10→1:5) to obtain the title compound (1.80 g, 49.6%).

reactant | 4-(2-fluoro-phenoxy)-benzaldehyde | 13.9 mmol, 3.00 g | FC1=C(OC2=CC=C(C=O)C=C2)C=CC=C1 | C13H9FO2
reactant | nitromethane | 69.5 mmol, 4.24 g | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 27.8 mmol, 2.14 g | C(C)(=O)[O-].[NH4+]
reactant | sodium borohydride | 20.9 mmol, 789 mg | [BH4-].[Na+]
solvent | Water | O | H2O
solvent | acetic acid | 3.00 mL | C(C)(=O)O | C2H4O2
solvent | dimethyl sulfoxide | 50.0 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 30.0 mL | C(C)(=O)O | C2H4O2
product | 1-(2-Fluoro-phenoxy)-4-(2-nitro-ethyl)-benzene | 1.80 g, 49.6% | FC1=C(OC2=CC=C(C=C2)CC[N+](=O)[O-])C=CC=C1 | C14H12FNO3
